US06586445B1
Tert-butyl (1R)-1-(4,5-Dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)ethylcarbamate
To a solution of Boc-D-TRP-OH (15 g, 34 mmol) in absolute ethanol (80 ml) was added cesium carbonate (5.5 g, 17 mmol). The mixture was stirred for about one hour at about 20° C. and concentrated under reduced pressure to afford a white powder which was dissolved in dimethylformamide (100 ml) and treated with 3-bromo-2-butanone (3.56 ml, 34 mmol). After stirring for about two hours at about 20° C. the solvent was removed under reduced pressure to afford a suspension which was treated with ethyl acetate. The precipitate (CsBr) was filtered off and the filtrate evaporated to afford an oil which was dissolved in xylene (400 ml). Ammonium acetate (52 g, 680 mmol) was added and the mixture was refluxed for about 45 min. After cooling to about 20° C., water (150 ml) and ethyl acetate (100 ml) were added. After decantation the organic layer was washed with water (100 ml), NaHCO3 10% (2×100 ml) and brine (100 ml), dried over MgSO4 and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate/heptane 1:1 as eluent to afford 3 g of the desired product as a white powder. Melting point: 138-140° C.

reactant | Boc-D-TRP-OH | 34 mmol, 15 g | CC(C)(C)OC(=O)N[C@H](CC1=CNC2=CC=CC=C21)C(=O)O | C16H20N2O4
reactant | cesium carbonate | 17 mmol, 5.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-2-butanone | 34 mmol, 3.56 ml | BrC(C(C)=O)C | C4H7BrO
reactant | Ammonium acetate | 680 mmol, 52 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | Tert-butyl (1R)-1-(4,5-Dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)ethylcarbamate | 3 g | CC=1N=C(OC1C)[C@@H](CC1=CNC2=CC=CC=C12)NC(OC(C)(C)C)=O | C20H25N3O3
